** sch_path: /home/eamtastudent/GRO-TDC/design/schematic/Modi_Buffers.sch
.subckt Modi_Buffers K0 IN0 VDD IN1 VSS K1 K2 IN2
*.PININFO IN0:I IN1:I IN2:I K0:O K1:O K2:O VDD:B VSS:B
x1[1] VDD net1 IN0 VSS INV_D1
x1[0] VDD net1 IN0 VSS INV_D1
x2[1] VDD K0 net1 VSS INV_D2
x2[0] VDD K0 net1 VSS INV_D2
x3 VDD net1 K0 VSS INV05
x3[1] VDD net2 IN1 VSS INV_D1
x3[0] VDD net2 IN1 VSS INV_D1
x4[1] VDD net3 IN2 VSS INV_D1
x4[0] VDD net3 IN2 VSS INV_D1
x5[1] VDD K1 net2 VSS INV_D2
x5[0] VDD K1 net2 VSS INV_D2
x6[1] VDD K2 net3 VSS INV_D2
x6[0] VDD K2 net3 VSS INV_D2
x1 VDD net2 K1 VSS INV05
x2 VDD net3 K2 VSS INV05
.ends

* expanding   symbol:  INV_D1.sym # of pins=4
** sym_path: /home/eamtastudent/GRO-TDC/design/schematic/INV_D1.sym
** sch_path: /home/eamtastudent/GRO-TDC/design/schematic/INV_D1.sch
.subckt INV_D1 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
MM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
MM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends


* expanding   symbol:  INV_D2.sym # of pins=4
** sym_path: /home/eamtastudent/GRO-TDC/design/schematic/INV_D2.sym
** sch_path: /home/eamtastudent/GRO-TDC/design/schematic/INV_D2.sch
.subckt INV_D2 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
MM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=1
MM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.3u l=0.13u ng=1
.ends


* expanding   symbol:  INV05.sym # of pins=4
** sym_path: /home/eamtastudent/GRO-TDC/design/schematic/INV05.sym
** sch_path: /home/eamtastudent/GRO-TDC/design/schematic/INV05.sch
.subckt INV05 VDD VOUT VIN VSS
*.PININFO VDD:B VSS:B VOUT:O VIN:I
MM1 net1 VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
MM3 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1
MM2 VOUT VIN net1 VSS sg13_lv_nmos w=0.15u l=0.13u ng=1
.ends

